US06426345B1
The solution of 2-methyl-4-(3-succinimidophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (18.4 g), N-bromosuccinimide (12.7 g) and benzoylperoxide (1.6 g) were refluxed for 4 hours. The mixture was evaporated and purified by chromatography (chloroform) to obtain 2-bromomethyl-4-(3-succinimidophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (15.6 g) as yellow crystals.

reactant | 2-methyl-4-(3-succinimidophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 18.4 g | CC1=NC2=C(N(C1=O)C1=CC(=CC=C1)N1C(CCC1=O)=O)N=CC=C2 | C18H14N4O3
reactant | N-bromosuccinimide | 12.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | 1.6 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-bromomethyl-4-(3-succinimidophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 15.6 g | BrCC1=NC2=C(N(C1=O)C1=CC(=CC=C1)N1C(CCC1=O)=O)N=CC=C2 | C18H13BrN4O3
